US07772226B2
(a) 5-Methyl-1-trityl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one
78.8 g of 5-methyl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one [CAS No. 76756-58-6] (Shih-Fong Chen and Raymond P. Panzica, Journal of Organic Chemistry 46, p 2467, 1981) was suspended in 2.5 L of dichloromethane at room temperature, and 78.8 of triethylamine was added thereto. 176 g of trityl chloride was added to the mixture, which was then stirred for three hours. 7.5 L of ethyl acetate was added to the mixture. After being washed successively with 3 L of water and 3 L of a saturated sodium chloride solution, the mixture was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 136.5 g of the title compound was obtained from the fraction eluted with hexane-ethyl acetate (20:80 to 0:100).

reactant | 5-methyl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one | 78.8 g | CN1N=CC2=C(C1=O)N=CN2 | C6H6N4O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 176 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | ethyl acetate | 7.5 L | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 2.5 L | ClCCl | CH2Cl2
product | 5-Methyl-1-trityl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one | 136.5 g | CN1N=CC2=C(C1=O)N=CN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H20N4O
